US07491732B2
1-Fluoro-3-phenylpropane was dissolved in acetic anhydride (10 mL) and to the solution was added acetic acid (1 mL) and fuming nitric acid (1 mL) at 0° C. The reaction mixture was reacted at rt and to 60° C. for 1 h, then diluted with ethyl acetate (100 mL). The organic solution was washed with water (3×100 mL) and brine (100 mL), and evaporated to give 1-fluoro-3-(4-nitrophenyl)propane.

reactant | 1-Fluoro-3-phenylpropane | FCCCC1=CC=CC=C1 | C9H11F
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
reactant | nitric acid | 1 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-fluoro-3-(4-nitrophenyl)propane | FCCCC1=CC=C(C=C1)[N+](=O)[O-] | C9H10FNO2
